US05409943
(a) Ethyl 2-chlorophenylacetimidate hydrochloride
A solution of 2-chlorobenzyl cyanide (32.4 g, 0.214 mol) in ethanol (70 ml) was cooled to 5 ° C., then HCl gas was passed through with stirring for 30 minutes and the resultant mixture was allowed to stand at room temperature for 18 hours. Evaporation of the solvent and trituration with ether gave the desired product, which was used immediately without further purification. Yield 49.0 g (98%).

reactant | 2-chlorobenzyl cyanide | 0.214 mol, 32.4 g | ClC1=C(CC#N)C=CC=C1 | C8H6ClN
reactant | HCl | Cl | ClH
reactant | ethanol | 70 ml | C(C)O | C2H6O
product | Ethyl 2-chlorophenylacetimidate hydrochloride | Cl.ClC1=C(C=CC=C1)CC(OCC)=N | InChI=1S/C10H12ClNO.ClH/c1-2-13-10(12)7-8-5-3-4-6-9(8)11;/h3-6,12H,2,7H2,1H3;1H
